US07326799B2
Synthesis of (2S,3S)-N-butyl-3-amino-2-hydroxyheptanamide (Compound of the Formula VII)
To 30 ml of a methanol solution containing 304 mg (1.25 mmol) of (2S,3S)-N-butyl-3-azido-2-hydroxyheptanamide was added 30 mg of 5% palladium carbon, and the resulting mixture was stirred under hydrogen atmosphere for 18 hours. Insoluble materials were filtered off, and the filtrate was distilled under reduced pressure to obtain 254 mg (Yield: 94%) of the title compound.

reactant | (2S,3S)-N-butyl-3-azido-2-hydroxyheptanamide | 1.25 mmol, 304 mg | C(CCC)NC([C@H]([C@H](CCCC)N=[N+]=[N-])O)=O | C11H22N4O2
catalyst | palladium carbon | 30 mg | [C].[Pd]
solvent | methanol | 30 ml | CO | CH4O
product | (2S,3S)-N-butyl-3-amino-2-hydroxyheptanamide | 254 mg, Yield: 94% | C(CCC)NC([C@H]([C@H](CCCC)N)O)=O | C11H24N2O2
